US09334263B2
To a solution of 2,4-dichloro-1,3,5-triazine (1.8 g, 6.4 mmol) in dioxane (20 mL) was added diisopropylethylamine (4 mL), followed by the addition of (S)-tert-butyl 2-((4-amino-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate (1.2 g, 7.2 mmol). The reaction mixture was stirred at 110° C. for 1 hour, and LCMS (liquid chromatography-mass spectrometry) showed the reaction was completed. The solvents were removed under reduced pressure, and the residue was purified by silica gel chromatography, eluting with petroleum ether:ethyl acetate=5:1, to afford (S)-tert-butyl 2-((4-(4-chloro-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate as a yellow solid (1.8 g, 70%). MS (ES+) C16H22ClN7O3 requires: 395, 396, found: 396, 397 [M+H]+.

reactant | 2,4-dichloro-1,3,5-triazine | 6.4 mmol, 1.8 g | ClC1=NC=NC(=N1)Cl | C3HCl2N3
reactant | diisopropylethylamine | 4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-tert-butyl 2-((4-amino-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate | 7.2 mmol, 1.2 g | NC=1C=NN(C1)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C13H22N4O3
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (S)-tert-butyl 2-((4-(4-chloro-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate | 1.8 g, 70% | ClC1=NC(=NC=N1)NC=1C=NN(C1)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C16H22ClN7O3
